US08466282B2
1-(2-fluorophenyl)-5-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-1,2,3-triazole-4-carboxamide hydrochloride
tert-Butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(4-methoxybutyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (85 mg) was dissolved in ethyl acetate (0.5 ml), 4N hydrogen chloride-ethyl acetate solution (0.5 ml) was added, and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and the residue was dried under reduced pressure to give the object product (70 mg).

reactant | tert-Butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(4-methoxybutyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 85 mg | FC1=C(C=CC=C1)N1N=NC(=C1CCCCOC)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C33H49FN6O6
reactant | hydrogen chloride-ethyl acetate | 4N, 0.5 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-fluorophenyl)-5-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-1,2,3-triazole-4-carboxamide hydrochloride | 70 mg | Cl.FC1=C(C=CC=C1)N1N=NC(=C1CCCCOC)C(=O)N([C@@H]1CNC[C@@H](C1)C(=O)N1CCOCC1)CC(C)C | InChI=1S/C28H41FN6O4.ClH/c1-20(2)19-34(22-16-21(17-30-18-22)27(36)33-11-14-39-15-12-33)28(37)26-25(10-6-7-13-38-3)35(32-31-26)24-9-5-4-8-23(24)29;/h4-5,8-9,20-22,30H,6-7,10-19H2,1-3H3;1H/t21-,22+;/m1./s1
